US04294960
Phosphoryl chloride (4.6 g.), trimethylsilylacetamide (0.95 g.) and N,N-dimethylformamide (1.2 g.) were added to a stirred suspension of 2-(2-amino-4-thiazolyl)-2-propoxyiminoacetic acid (syn isomer, 2.8 g.) in tetrahydrofuran (25 ml.) below 5° C., and stirred for 20 minutes. The solution was dropwise added to a suspension of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (3.9 g.) in a mixture of tetrahydrofuran (20 ml.), water (20 ml.) and acetone (20 ml.) at -5° to 5° C. while keeping the pH value at 6.9 to 7.1 with 20% aqueous solution of sodium carbonate. The solution was stirred at -5° to 5° C. for 30 minutes and further at 10° C. for an hour, and adjusted to pH 7.5. After tetrahydrofuran (100 ml.) and a saturated aqueous solution of sodium chloride (200 ml.) were added to the resultant solution, the insoluble substance was filtered out. The organic layer was separated from the filtrate, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was triturated with diisopropyl ether and the precipitates were collected by filtration to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-propoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 5.8 g.).

reactant | Phosphoryl chloride | 4.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylsilylacetamide | 0.95 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2-amino-4-thiazolyl)-2-propoxyiminoacetic acid | 2.8 g | NC=1SC=C(N1)C(C(=O)O)=NOCCC | C8H11N3O3S
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 3.9 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 1.2 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-propoxyiminoacetamido]-3-cephem-4-carboxylate | 5.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCC | C22H22N6O7S2
